US07223778B2
Step 1. Preparation of 2-Ethyl-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine (85)
Tetrakistriphenylphosphinepalladium(0) (0.03 g, 0.03 mmol) is added to 2-chloro-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine (0.10 g, 0.27 mmol) in toluene (5 mL). Ethyl boronic acid (0.1 g, 1.1 mmol) and potassium carbonate (0.07 g, 0.55 mmol)) are added to this solution, and the reaction is heated to reflux for 17 hours. The product is extracted with ethyl acetate (20 mL). Combined extracts are washed with brine (20 mL), dried over sodium sulfate, and concentrated in vacuo. Purification by flash column chromatography (5% EtOAC-hexane) yields 2-ethyl-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine as a yellow solid TLC Rf 0.55 (elution with 10% ethyl acetate-hexane)

reactant | 2-chloro-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine | 0.27 mmol, 0.10 g | ClC1=NC(=C(C=C1[N+](=O)[O-])C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C14H10ClF3N2O4
reactant | Ethyl boronic acid | 1.1 mmol, 0.1 g | C(C)B(O)O | C2H7BO2
reactant | potassium carbonate | 0.55 mmol, 0.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakistriphenylphosphinepalladium(0) | 0.03 mmol, 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Ethyl-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine | C(C)C1=NC(=C(C=C1[N+](=O)[O-])C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C16H15F3N2O4
